US07723378B2
To a solution of 3-(2-ethyl-4-formyl-6-methyl-phenyl)-acrylic acid (2.75 g, 12.6 mmol) and DIPEA (1.8 g, 13.8 mmol) in ethanol (80 mL), Pd/C (275 mg, 10% Pd, moistened with 50% water) is added. The mixture is stirred for 16 h at rt under 1 atm of H2. The catalyst is filtered off and the filtrate is concentrated. The residue is dissolved in EA, washed with 2 N aq. HCl, followed by 1 N aq. HCl and brine. The organic extract is dried over Na2SO4, filtered and evaporated to give 3-(2-ethyl-4-hydroxymethyl-6-methyl-phenyl)-propionic acid (2.8 g) as a white solid; LC-MS: tR=0.76 min.

reactant | 3-(2-ethyl-4-formyl-6-methyl-phenyl)-acrylic acid | 12.6 mmol, 2.75 g | C(C)C1=C(C(=CC(=C1)C=O)C)C=CC(=O)O | C13H14O3
reactant | DIPEA | 13.8 mmol, 1.8 g | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | Pd/C | 275 mg | [Pd] | Pd
product | 3-(2-ethyl-4-hydroxymethyl-6-methyl-phenyl)-propionic acid | 2.8 g | C(C)C1=C(C(=CC(=C1)CO)C)CCC(=O)O | C13H18O3
